US05665843
Into 3 ml of ethanol were dissolved 5 g of guanyl-O-methylisourea hydrochloride and 3 ml of allylamine. The resulting solution was reacted at room temperature for 24 hours in a nitrogen stream. The reaction mixture was then filtered and the precipitates were washed with ethanol to give 3.14 g of allylbiguanide hydrochloride as needle like crystals (m.p.: 178°-179° C.).

reactant | guanyl-O-methylisourea hydrochloride | 5 g | Cl.C(N)(=N)NC(OC)=N
reactant | allylamine | 3 ml | C(C=C)N | C3H7N
solvent | ethanol | 3 ml | C(C)O | C2H6O
product | allylbiguanide hydrochloride | 3.14 g | Cl.C(C=C)NC(=N)NC(=N)N | InChI=1S/C5H11N5.ClH/c1-2-3-9-5(8)10-4(6)7;/h2H,1,3H2,(H6,6,7,8,9,10);1H
